US03950339
[4-(1.3-Benzodioxol-5-Ylmethylamino)-6-Propyl-2-Pyrimidinylthio]Acetonitrile
A stirred suspension of 13.50 g. (0.06 mole) of (4-chloro-6-propyl-2-pyrimidinylthio)acetonitrile, 9.00 g. (0.06 mole) of piperonylamine and 6.36 g. (0.06 mole) of sodium carbonate was heated under reflux for six hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was dissolved in ethyl acetate, diluted with petroleum ether and was cooled in ice. The precipitate which formed was collected and recrystallized from a mixture of ethanol-petroleum ether to give 3.0 g. of product, m.p. 92°-94°.

reactant | (4-chloro-6-propyl-2-pyrimidinylthio)acetonitrile | 0.06 mole | ClC1=NC(=NC(=C1)CCC)SCC#N | C9H10ClN3S
reactant | piperonylamine | 0.06 mole | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | sodium carbonate | 0.06 mole | C([O-])([O-])=O.[Na+].[Na+]
product | [4-(1.3-Benzodioxol-5-Ylmethylamino)-6-Propyl-2-Pyrimidinylthio]Acetonitrile | O1COC2=C1C=CC(=C2)CNC2=NC(=NC(=C2)CCC)SCC#N | C17H18N4O2S
